US06166080
2-[2-(Aminoiminomethyl)hydrazino]propanoic acid.
A mixture of 10.0 g (55.4 mmol) 2-[(aminoiminomethyl)hydrazino]propanoic acid hydrochloride (J. Pharmaceut. Sci. 1980, 69, 1000-1004), 1.5 g of 10% palladium on carbon, and 300 mL of distilled water was shaken under 50 psi hydrogen pressure for 16 h at 25° C. The mixture was filtered. To the filtrate was added 75 g of Dowex IR118H hydrogen form strongly acidic cation exchange resin. The mixture was stirred 1 hour and then the mixture was filtered. The resin was washed with three 150 mL portions of distilled water. The combined filtrate and washes were discarded and the resin was washed with five 200 mL portions of 20% (vol./vol.) pyridine in distilled water. These washes were combined and the solvent was evaporated at reduced pressure (25° C., 1 torr). The resulting white powder was dissolved in 30 mL of refluxing distilled water and the resulting solution was diluted with 90 mL of hot absolute ethanol. The mixture was allowed to cool to 25° C., and after 24 h the precipitate which formed was collected by filtration. The solid was dried (20 torr/50° C./24 hours) to give 3.8 g of the title compound as a white solid,

reactant | 2-[(aminoiminomethyl)hydrazino]propanoic acid hydrochloride | 55.4 mmol, 10.0 g | Cl.NN=CNNC(C(=O)O)C
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | water | 300 mL | O | H2O
product | 2-[2-(Aminoiminomethyl)hydrazino]propanoic acid | 3.8 g | NN=CNNC(C(=O)O)C | C4H10N4O2
